US06794395B1
(24) 3-(Z)-[1-(4-ethoxycarbonylmethyl-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and ethyl 4-aminophenylacetate

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | ethyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
product | 3-(Z)-[1-(4-ethoxycarbonylmethyl-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone | C(C)OC(=O)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C27H26N2O5
